US08802688B2
Step 4: 3-cyano-1H-indazole-6-carboxylic acid
To a solution of methyl 3-cyano-1H-indazole-6-carboxylate (1.47 g, 7.31 mmol) in methanol (36 mL) and tetrahydrofuran (20 mL) was added 2 N aqueous lithium hydroxide (16 mL, 32 mmol). The reaction was heated to 50° C. for 72 hours. The reaction was cooled to room temperature and concentrated. The residue was diluted with water and the pH was adjusted to 4 with 1 N aqueous hydrochloric acid. The resulting precipitate was filtered off, rinsed with water, and dried under vacuum to provide the title compound (500 mg, 37%) as a tan solid. +ESI (M+H) 188.2.

reactant | methyl 3-cyano-1H-indazole-6-carboxylate | 7.31 mmol, 1.47 g | C(#N)C1=NNC2=CC(=CC=C12)C(=O)OC | C10H7N3O2
reactant | lithium hydroxide | 32 mmol, 2 N, 16 mL | [OH-].[Li+]
solvent | methanol | 36 mL | CO | CH4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-cyano-1H-indazole-6-carboxylic acid | 500 mg, 37% | C(#N)C1=NNC2=CC(=CC=C12)C(=O)O | C9H5N3O2
